US07312330B2
(4-Trifluoromethyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-amine
The title compound was prepared according to the procedure given for Example 9 using N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (0.150 g, 0.51 mmol), 2-chloro-3-(trifluoromethyl)pyridine (0.185 g, 0.10 mmol), N,N-diisopropylethylamine (0.133 mL, 0.76 mmol) and heating the reaction mixture 6 h at 180° C. to obtain 0.130 g of a light yellow solid.

reactant | N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.51 mmol, 0.150 g | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2)(F)F | C14H13F3N4
reactant | 2-chloro-3-(trifluoromethyl)pyridine | 0.10 mmol, 0.185 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | N,N-diisopropylethylamine | 0.76 mmol, 0.133 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (4-Trifluoromethyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-amine | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2C(F)(F)F)(F)F | C20H15F6N5
